*SRC=1N4736A;DI_1N4736A;Diodes;Zener <=10V; 6.80V  1.00W   Diodes Inc. Zener
*SYM=HZEN
.SUBCKT 1N4736A  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 6.05
.MODEL DF D ( IS=60.6p RS=0.620 N=1.10
+ CJO=123p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=12.1f RS=0.209 N=1.00 )
.ENDS